US20010027196A1
2-Amino-4-cyclohexylamino-6-phenyl-pyrimidine-5-carbonitrile
From 2-amino-4-methanesulfonyl-6-phenyl-pyrimidine-5-carbonitrile and cyclohexylamine in DME. ES-MS m/e (%): 294 (M+H+, 100).

reactant | 2-amino-4-methanesulfonyl-6-phenyl-pyrimidine-5-carbonitrile | NC1=NC(=C(C(=N1)S(=O)(=O)C)C#N)C1=CC=CC=C1 | C12H10N4O2S
reactant | cyclohexylamine | C1(CCCCC1)N | C6H13N
solvent | DME | COCCOC | C4H10O2
product | 2-Amino-4-cyclohexylamino-6-phenyl-pyrimidine-5-carbonitrile | NC1=NC(=C(C(=N1)NC1CCCCC1)C#N)C1=CC=CC=C1 | C17H19N5
